US08137569B2
CHF3/CF4 Plasma Treatment
SU8 membranes such as fabricated in Example 1 were inserted into the PlasmaLab 80 machine and treated for 1 to 10 minutes at a CHF3 flow of 20 sccm and an CF4 flow of 20 sccm. The background pressure was 25 mT and the plasma generator power was 300 W. The results of SEM morphology measurements, as well as water contact angle and AFM roughness analysis are shown in FIGS. 12a and 12b, respectively.

reactant | CHF3 | C(F)(F)F | CHF3
reactant | CF4 | C(F)(F)(F)F | CF4
product | CHF3 CF4 | C(F)(F)F.C(F)(F)(F)F | InChI=1S/CF4.CHF3/c2-1(3,4)5;2-1(3)4/h;1H
